US04956366
180 mg of 2-(6-morpholino-4-pyrimidinylmethylthio)-1H-thieno[3,4-d]imidazole were oxidized with m-chloroperbenzoic acid in analogy to Example 1g. 140 mg of 2-(6-morpholino-4-pyrimidinylmethylsulfinyl)-1H-thieno[3,4-d]imidazole were obtained (melting point 107° C. [decomposition]).

reactant | 2-(6-morpholino-4-pyrimidinylmethylthio)-1H-thieno[3,4-d]imidazole | 180 mg | O1CCN(CC1)C1=CC(=NC=N1)CSC1=NC=2C(N1)=CSC2 | C14H15N5OS2
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 2-(6-morpholino-4-pyrimidinylmethylsulfinyl)-1H-thieno[3,4-d]imidazole | 140 mg | O1CCN(CC1)C1=CC(=NC=N1)CS(=O)C1=NC=2C(N1)=CSC2 | C14H15N5O2S2
